datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[N:10](C)CCC/N=C(\c1ccccc1)c1ccccc1O.Fc1cc2c(cc1Cl)[nH]c[n+:21]2[H:20]>>C[N+:10](C)(CCC/N=C(\c1ccccc1)c1ccccc1O)[H:20].Fc1cc2c(cc1Cl)[nH]c[n:21]2 10=20;20,21=21",
"NC(=S)C(Cc1ccccc1)[NH2:10].OCc1ccc(-c2c3[nH]c4ccccc4c3cc[n+:21]2[H:20])o1>>NC(=S)C(Cc1ccccc1)[NH2+:10][H:20].OCc1ccc(-c2c3[nH]c4ccccc4c3cc[n:21]2)o1 10=20;20,21=21",
"COc1ccc([NH2+:21][H:20])cc1C[NH3+].c1ccc(CSc2ncn[n-:10]2)cc1>>COc1ccc([NH2:21])cc1C[NH3+].c1ccc(CSc2ncn[n:10]2[H:20])cc1 10=20;20,21=21",
"CCc1cc(-c2ccccc2)n[n:10]c1NCC[NH+]1CCOCC1.OCC(O)C[NH2+:21][H:20]>>CCc1cc(-c2ccccc2)n[n+:10]([H:20])c1NCC[NH+]1CCOCC1.OCC(O)C[NH2:21] 10=20;20,21=21",
"CC(=O)OC/C(=N/[O-:10])C(C)=NO.CCC(C)(C)[NH2+:21][H:20]>>CC(=O)OC/C(=N/[O:10][H:20])C(C)=NO.CCC(C)(C)[NH2:21] 10=20;20,21=21",
"C[NH2+]Cc1cccc[n:10]1.O=C(NCC(=O)[O:21][H:20])c1ccccc1O>>C[NH2+]Cc1cccc[n+:10]1[H:20].O=C(NCC(=O)[O-:21])c1ccccc1O 10=20;20,21=21",
"CC(=O)n1cc[n:10]c1C.c1c(CN2CCNCC[NH2+]CC2)n[nH]c1CN1CCNCC[NH+:21]([H:20])CC1>>CC(=O)n1cc[n+:10]([H:20])c1C.c1c(CN2CCNCC[NH2+]CC2)n[nH]c1CN1CCNCC[NH:21]CC1 10=20;20,21=21",
"C[NH+](C)CCNc1c2ccccc2[n+:21]([H:20])c2cccc([N+](=O)[O-])c12.Cc1cc(Nc2ccc([O-])cc2)cc(C)c1[O-:10]>>C[NH+](C)CCNc1c2ccccc2[n:21]c2cccc([N+](=O)[O-])c12.Cc1cc(Nc2ccc([O-])cc2)cc(C)c1[O:10][H:20] 10=20;20,21=21",
"CCC[S:21][H:20].c1ccc2c3c([nH]c2c1)C[NH:10]CC3>>CCC[S-:21].c1ccc2c3c([nH]c2c1)C[NH+:10]([H:20])CC3 10=20;20,21=21",
"C[C@H]1C[C@@H]2CCC[C@@H]2[N+:21]1(C)[H:20].[NH3+]CCCC#CC#CCCC(=O)[O-:10]>>C[C@H]1C[C@@H]2CCC[C@@H]2[N:21]1C.[NH3+]CCCC#CC#CCCC(=O)[O:10][H:20] 10=20;20,21=21",
"O=C([C@H]1CC[C@H](O)CC1)[O:21][H:20].O=S(=O)(Cc1ccccc1)c1ncn[n-:10]1>>O=C([C@H]1CC[C@H](O)CC1)[O-:21].O=S(=O)(Cc1ccccc1)c1ncn[n:10]1[H:20] 10=20;20,21=21",
"CCCS/C(c1ccccc1)=[NH+:21]\[H:20].c1ccc2c(c1)CC[NH:10]C2>>CCCSC(c1ccccc1)=[NH:21].c1ccc2c(c1)CC[NH+:10]([H:20])C2 10=20;20,21=21",
"Cc1ccc(C(=O)[O-:10])[nH]1.OCc1[nH]c2ccc(Cl)cc2[n+:21]1[H:20]>>Cc1ccc(C(=O)[O:10][H:20])[nH]1.OCc1[nH]c2ccc(Cl)cc2[n:21]1 10=20;20,21=21",
"O=C(CC[NH2+:21][H:20])Oc1ccc([N+](=O)[O-])cc1.O=C(c1ccc(F)cc1)[O-:10]>>O=C(CC[NH2:21])Oc1ccc([N+](=O)[O-])cc1.O=C(c1ccc(F)cc1)[O:10][H:20] 10=20;20,21=21",
"Cc1cc(C(C)C)cc(C)c1[O:21][H:20].Nc1c(O)cccc1[O-:10]>>Cc1cc(C(C)C)cc(C)c1[O-:21].Nc1c(O)cccc1[O:10][H:20] 10=20;20,21=21",
"Cc1ccc(Br)c(C(=O)[O:21][H:20])c1.O=[N+]([O-])c1cccc2[nH][n:10]cc12>>Cc1ccc(Br)c(C(=O)[O-:21])c1.O=[N+]([O-])c1cccc2[nH][n+:10]([H:20])cc12 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccc(C)cc2)CCC1(C)C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC1=C(CC(C)[NH+:10](CC(O)c2ccc(C)cc2)[H:20])CCC1(C)C.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC1(C)CC(NCCO)CC(C)(C)[NH:10]1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC1(C)CC(NCCO)CC(C)(C)[NH+:10]1[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C[NH+](C)CCCCCNC(=O)/C=N/[O:21][H:20].O=C(Cc1cccc2ccccc12)[O-:10]>>C[NH+](C)CCCCCNC(=O)/C=N/[O-:21].O=C(Cc1cccc2ccccc12)[O:10][H:20] 10=20;20,21=21",
"C(=C/C[N+:21]1([H:20])CCCCC1)\CN1CCCCC1.Clc1cnc2c(ccc3ccc[n:10]c32)c1>>C(=C/C[N:21]1CCCCC1)\CN1CCCCC1.Clc1cnc2c(ccc3ccc[n+:10]([H:20])c32)c1 10=20;20,21=21",
"Cn1nn[n:10]c1N.O=C([C@]12C[NH2+]CC[C@H]1O2)[O:21][H:20]>>Cn1nn[n+:10]([H:20])c1N.O=C([C@]12C[NH2+]CC[C@H]1O2)[O-:21] 10=20;20,21=21",
"CC(C)CCCC(C)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C)CCCC(C)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C[NH+](C)Cc1cc(F)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+](C)Cc1cc(F)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1ccc(CCCCC[NH2:10])nc1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1ccc(CCCCC[NH2+:10][H:20])nc1 10=20;20,21=21",
"Cc1cc[n:10]c(/N=C/c2ccc([N+](=O)[O-])cc2)n1.O=C(c1ccc(CO)cc1)[O:21][H:20]>>Cc1cc[n+:10]([H:20])c(/N=C/c2ccc([N+](=O)[O-])cc2)n1.O=C(c1ccc(CO)cc1)[O-:21] 10=20;20,21=21",
"CC(O)[C@@H]1C[C@H](CC(=O)[O:21][H:20])C1(C)C.C[NH2+]CCN(C)CC[NH2:10]>>CC(O)[C@@H]1C[C@H](CC(=O)[O-:21])C1(C)C.C[NH2+]CCN(C)CC[NH2+:10][H:20] 10=20;20,21=21",
"Cc1cc(C(=O)[O:21][H:20])n[nH]1.Nc1cc[n:10]c([S-])n1>>Cc1cc(C(=O)[O-:21])n[nH]1.Nc1cc[n+:10]([H:20])c([S-])n1 10=20;20,21=21",
"CC(C)c1ccc[n:10]c1.Cc1cc(C)[n+:21]([H:20])[nH]1>>CC(C)c1ccc[n+:10]([H:20])c1.Cc1cc(C)[n:21][nH]1 10=20;20,21=21",
"C[C@]1(O)CCCC[C@@H]1[NH2:10].N#Cc1ccc(O[C@H]2O[C@@H](C(=O)[O:21][H:20])[C@H](O)[C@@H](O)[C@@H]2O)cc1>>C[C@]1(O)CCCC[C@@H]1[NH2+:10][H:20].N#Cc1ccc(O[C@H]2O[C@@H](C(=O)[O-:21])[C@H](O)[C@@H](O)[C@@H]2O)cc1 10=20;20,21=21",
"O=C1C=CC=C(C(=O)[O:21][H:20])C=C1.S=C1Nc2cc3c(cc2[N-:10]1)CCCC3>>O=C1C=CC=C(C(=O)[O-:21])C=C1.S=C1Nc2cc3c(cc2[N:10]1[H:20])CCCC3 10=20;20,21=21",
"CCN[N:10](C)C.ONC(c1ccccc1)=[N+:21](O)[H:20]>>CCN[N+:10](C)(C)[H:20].ONC(c1ccccc1)=[N:21]O 10=20;20,21=21",
"CC[N:10](CC#N)CC#N.[NH3+]c1ccc(-c2c[n+:21]([H:20])c(-c3ccccc3)o2)cc1>>CC[N+:10](CC#N)(CC#N)[H:20].[NH3+]c1ccc(-c2c[n:21]c(-c3ccccc3)o2)cc1 10=20;20,21=21",
